US05391552
1-[4,4-Bis(4-fluorophenyl)butyl]-4-[2-hydroxy-3-(2phenylethylamino)propyl]piperazine (compound 8):
3.86 g (0.01 mol) of 1-[4,4-bis(4-fluorophenyl)butyl]-4-(2,3-epoxypropyl)piperazine and 1.2 g (0.01 mol) of 2-phenylethylamine were refluxed with heating together with 200 ml of DMF for 24 hours in the presence of a catalytic amount of an alkali such as potassium carbonate. DMF was distilled off under reduced pressure, and a residue was extracted with ethyl acetate. After washing with water and drying, the ethyl acetate was distilled off under reduced pressure to obtain 5 g of a crude subject compound of a viscous liquid. The obtained compound was refined by flush chromatography and fractional thin-layer chromatography with solvent mixtures of ethyl acetate--methanol and methylene chloride--methanol respectively to obtain 0.5 g of the subject compound in a viscous liquid state.

reactant | 1-[4,4-bis(4-fluorophenyl)butyl]-4-(2,3-epoxypropyl)piperazine | 0.01 mol, 3.86 g | FC1=CC=C(C=C1)C(CCCN1CCN(CC1)CC1CO1)C1=CC=C(C=C1)F | C23H28F2N2O
reactant | 2-phenylethylamine | 0.01 mol, 1.2 g | C1(=CC=CC=C1)CCN | C8H11N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-[4,4-Bis(4-fluorophenyl)butyl]-4-[2-hydroxy-3-(2phenylethylamino)propyl]piperazine | 0.5 g | FC1=CC=C(C=C1)C(CCCN1CCN(CC1)CC(CNCCC1=CC=CC=C1)O)C1=CC=C(C=C1)F | C31H39F2N3O
